US04300942
Freshly prepared ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate (12 g.; 0.031 mol.) dissolved in 150 ml. of diethyl ether was added to a solution containing diallylamine (12.15 g.; 0.125 mol.) in 150 ml. of diethyl ether. The reaction mixture was stirred for 16 hours at 25° C., then filtered. The filtrate was washed with 3% ammonium hydroxide, 5% hydrochloric acid and then water. The ether layer was separated, then dried and concentrated in vacuo to yield ethyl-N-[(benzylthio)carbonyl]-N-[bis(diallylamino)phosphinylmethyl]-glycinate, hemi-hydrate (10.1 g.) as an oil (nD25 =1.5373) having the following analysis:

reactant | ethyl-N-[(benzylthio)carbonyl]-N-[dichlorophosphinylmethyl]-glycinate | 0.031 mol, 12 g | C(C)OC(CN(CP(=O)(Cl)Cl)C(=O)SCC1=CC=CC=C1)=O | C13H16Cl2NO4PS
reactant | diallylamine | 0.125 mol, 12.15 g | C(C=C)NCC=C | C6H11N
solvent | diethyl ether | C(C)OCC | C4H10O
product | ethyl-N-[(benzylthio)carbonyl]-N-[bis(diallylamino)phosphinylmethyl]-glycinate | C(C)OC(CN(CP(=O)(N(CC=C)CC=C)N(CC=C)CC=C)C(=O)SCC1=CC=CC=C1)=O | C25H36N3O4PS
